US04377582
4-(4-Phenoxypiperidinyl)-2-phenylquinazoline
Equimolar quantities of 4-(4-hydroxypiperidinyl-2-phenylquinazoline, sodium hydride, and fluorobenzene are heated in dimethylformamide to prepare the title compound.

reactant | 4-hydroxypiperidinyl-2-phenylquinazoline | OC1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C19H19N3O
reactant | sodium hydride | [H-].[Na+]
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-Phenoxypiperidinyl)-2-phenylquinazoline | O(C1=CC=CC=C1)C1CCN(CC1)C1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C25H23N3O
